US06969711B2
To a solution of 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide (93 mg, 0.251 mmol) in THF (2 ml) were added triethylamine (51 mg, 0.502 mmol) and 4-(dimethylamino)pyridine (3 mg, 0.025 mmol), and then dropped methanesulfonyl chloride (43 mg, 0.377 mmol) with ice-cooling. The mixture was stirred for 45 minutes. The reaction solution was concentrated in vacuo to provide crude 2-[4-(2-methanesulfonyloxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide.

reactant | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide | 0.251 mmol, 93 mg | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1SC)C)SC | C16H26N4O2S2
reactant | triethylamine | 0.502 mmol, 51 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.377 mmol, 43 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 0.025 mmol, 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[4-(2-methanesulfonyloxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide | CS(=O)(=O)OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1SC)C)SC | C17H28N4O4S3
